US07893099B2
Step 1: (1R,2R)-2-(1-Cyano-cyclopropylcarbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester
The reaction of (1R,2R)-4-oxo-cyclopentane-1,2-dicarboxylic acid monoethyl ester and 1-amino-cyclopropanecarbonitrile hydrochloride performed in analogy to example 1, step 8 yielded the title compound as a colorless solid. MS: 265.1 (M+H)+.

reactant | (1R,2R)-4-oxo-cyclopentane-1,2-dicarboxylic acid monoethyl ester | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(=O)O | C9H12O5
reactant | 1-amino-cyclopropanecarbonitrile hydrochloride | Cl.NC1(CC1)C#N
product | (1R,2R)-2-(1-Cyano-cyclopropylcarbamoyl)-4-oxo-cyclopentanecarboxylic acid ethyl ester | C(C)OC(=O)[C@H]1[C@@H](CC(C1)=O)C(NC1(CC1)C#N)=O | C13H16N2O4
